US09371317B2
A mixture of methyl 2-bromoisonicotinate (2.00 g, 9.26 mmol), 2-isopropyl-1H-imidazole (1.12 g, 10.2 mmol), cesium carbonate (6.03 g, 18.5 mmol) and copper (1) Iodide (176 mg, 926 umol) in DMSO was heated to 120° C. for eighteen hours, under nitrogen. The crude material was filtered, purified by preparative HPLC (10-90% CH3CN in water). The pure fractions were collected and concentrated to give 2-(2-isopropyl-1H-imidazol-1-yl)isonicotinic acid as a white sticky solid (1.176 g, 55% yield). MS 232 (MH+).

reactant | methyl 2-bromoisonicotinate | 9.26 mmol, 2.00 g | BrC=1C=C(C(=O)OC)C=CN1 | C7H6BrNO2
reactant | 2-isopropyl-1H-imidazole | 10.2 mmol, 1.12 g | C(C)(C)C=1NC=CN1 | C6H10N2
reactant | cesium carbonate | 18.5 mmol, 6.03 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMSO | CS(=O)C | C2H6OS
catalyst | copper (1) Iodide | 926 umol, 176 mg | [Cu]I
product | 2-(2-isopropyl-1H-imidazol-1-yl)isonicotinic acid | 1.176 g, 55% yield | C(C)(C)C=1N(C=CN1)C=1C=C(C(=O)O)C=CN1 | C12H13N3O2
